US07582773B2
Step 1: Synthesis of [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenol (0.291 g, 0.747 mmol) was reacted with K2CO3 (0.134 g, 0.971 mmol) and methyl bromoacetate (0.149 g, 0.971 mmol) in acetone (5 ml) to give the product (0.305 g, 0.661 mmol, 88%) as a white solid, mp 145-148° C. 1H NMR (DMSO-d6) δ 2.24 (s, 3H), 3.70 (s, 3H), 4.81 (s, 2H), 5.39 (s, 2H), 6.86 (d, J=7.2 Hz, 2H), 6.98 (d, J=8.9 Hz, 2H), 7.13 (t, J=7.2 Hz, 1H), 7.18 (t, J=7.0 Hz, 2H), 7.34 (dd, J=1.4, 8.1 Hz, 1H), 7.39-7.44 (m, 3H), 7.49 (t, J=7.0 Hz, 2H,) 7.56-7.62 (m, 4H); [ESI(+)], m/z 462 (M+H)+.

reactant | 4-(1-benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenol | 0.747 mmol, 0.291 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C28H23NO
reactant | K2CO3 | 0.971 mmol, 0.134 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.971 mmol, 0.149 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-3-methyl-2-phenyl-1H-indol-6-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C1=CC=C2C(=C(N(C2=C1)CC1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H27NO3
